US07645771B2
A mixture of 1-(8-{2-[4-(4-chloro-3-fluorophenyl)piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole dihydrochloride (0.20 g, 0.39 mmol), triethylamine (0.11 mL, 0.78 mmol) and trimethylacetyl chloride (0.053 mL, 0.43 mmol) in dichloromethane (4 mL) was stirred at rt for 1 h before the reaction mixture was quenched with saturated sodium bicarbonate solution. The organic layer was separated, dried, concentrated and purified by chromatography on silica gel eluting with a dichloromethane to 1:9 methanol:dichloromethane gradient to give 1-((1R,5S)-8-{2-[4-(4-chloro-3-fluorophenyl)-1-(2,2-dimethylpropanoyl)piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole as a white foam (0.11 g, 51%). 1H NMR (400 MHz, CDCl3) δ 7.67 (m, 1H), 7.40 (m, 1H), 7.29 (m, 1H), 7.03-7.19 (m, 4H), 4.72 (m, 1H), 3.90 (m, 2H), 3.33 (m, 4H), 2.59 (s, 3H), 2.42 (m, 2H), 1.78-2.13 (m, 14H), 1.27 (s, 9H). HRMS C33H42ClFN4O m/z 565.3109 (M+H)Cal., 565.3134 (M+H)Obs..

reactant | 1-(8-{2-[4-(4-chloro-3-fluorophenyl)piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole dihydrochloride | 0.39 mmol, 0.20 g | Cl.Cl.ClC1=C(C=C(C=C1)C1(CCNCC1)CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C)F
reactant | triethylamine | 0.78 mmol, 0.11 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylacetyl chloride | 0.43 mmol, 0.053 mL | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 1-((1R,5S)-8-{2-[4-(4-chloro-3-fluorophenyl)-1-(2,2-dimethylpropanoyl)piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole | 0.11 g, 51% | ClC1=C(C=C(C=C1)C1(CCN(CC1)C(C(C)(C)C)=O)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C)F | C33H42ClFN4O
